US07635715B2
Step G: Preparation of ethyl 4-(2-chloro-6-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)-tetrahydro-2H-pyran-4-carboxylate
A mixture of ethyl 4-(2-chloro-6-(3,3,3-triethoxyprop-1-ynyl)phenyl)-tetrahydro-2H-pyran-4-carboxylate (2.42 g, 5.51 mmol) in 50 mL EtOH and 10 mL water was treated with 4-methylbenzenesulfonic acid hydrate (0.105 g, 0.551 mmol). The mixture was stirred at room temperature for 2 hours. The mixture was diluted with 100 mL EtOAc, washed with 20 mL saturated NaHCO3, dried over anhydrous Na2SO4 and concentrated. The concentrate was purified by column chromatography (20% EtOAc/hexane) to give 1.19 g pale yellow solid. MS m/e: (M+H)+ 365.

reactant | ethyl 4-(2-chloro-6-(3,3,3-triethoxyprop-1-ynyl)phenyl)-tetrahydro-2H-pyran-4-carboxylate | 5.51 mmol, 2.42 g | ClC1=C(C(=CC=C1)C#CC(OCC)(OCC)OCC)C1(CCOCC1)C(=O)OCC | C23H31ClO6
reactant | 4-methylbenzenesulfonic acid hydrate | 0.551 mmol, 0.105 g | O.CC1=CC=C(C=C1)S(=O)(=O)O
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | water | 10 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | ethyl 4-(2-chloro-6-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)-tetrahydro-2H-pyran-4-carboxylate | 1.19 g | ClC1=C(C(=CC=C1)C#CC(=O)OCC)C1(CCOCC1)C(=O)OCC | C19H21ClO5
